US07846959B2
To a solution of 3-(4-azido-3-nitrophenyl)-2-(3-chloro-2-fluorophenyl)-3-hydroxy-2,3-dihydro-1H-isoindol-1-one (7.0 g, 16.00 mmol) in a mixture tetrahydrofurane-water (1:1, 15.0 ml) ammonium formate (5.0 g, 79.30 mmol), was added followed by the addition of iron (4.0 g, 71.60 mmol). The reaction mixture was heated to reflux and stirred for 320 minutes. It was cooled to room temperature and diluted with ethyl acetate (70 mL). The resulting slurry was filtered through a pad of Celite and washed with ethyl acetate (3×30 mL). It was partitioned with water and the organic layer was washed with water (30 mL), brine (30 mL) and dried over anhydrous sodium sulfate. Filtration and concentration resulted in a yellow oily product. It was crystallized from diethyl ether by the addition of hexane. The product was collected by filtration, dried in vacuo, to provide 2-(3-chloro-2-fluorophenyl)-3-(3,4-diaminophenyl)-3-hydroxy-2,3-dihydro-1H-isoindol-1-one (3.42 g, 56% yield). 1H NMR (400 MHz, CD3OD): 7.85 (d, J=7.6 Hz, 1H), 7.65-7.58 (m, 2H), 7.41-7.34 (m, 2H), 7.17 (t, J=6.4 Hz. 1H), 7.05 (t, J=8 Hz, 1H), 6.69 (s, 1H), 6.57 (s, 2H); MS (EI) for C20H15CFN3O2: 382 (M−).

reactant | 3-(4-azido-3-nitrophenyl)-2-(3-chloro-2-fluorophenyl)-3-hydroxy-2,3-dihydro-1H-isoindol-1-one | 16.00 mmol, 7.0 g | N(=[N+]=[N-])C1=C(C=C(C=C1)C1(N(C(C2=CC=CC=C12)=O)C1=C(C(=CC=C1)Cl)F)O)[N+](=O)[O-] | C20H11ClFN5O4
reactant | tetrahydrofurane water | 15.0 ml | O1CCCC1.O
reactant | ammonium formate | 79.30 mmol, 5.0 g | C(=O)[O-].[NH4+]
solvent | ethyl acetate | 70 mL | C(C)(=O)OCC | C4H8O2
catalyst | iron | 71.60 mmol, 4.0 g | [Fe] | Fe
product | 2-(3-chloro-2-fluorophenyl)-3-(3,4-diaminophenyl)-3-hydroxy-2,3-dihydro-1H-isoindol-1-one | 3.42 g, 56% yield | ClC=1C(=C(C=CC1)N1C(C2=CC=CC=C2C1(O)C1=CC(=C(C=C1)N)N)=O)F | C20H15ClFN3O2
